US08809331B2
A solution of tert-butyl 4-amino-5-chloro-2-fluorobenzoate (50 mg, 0.20 mmol) in dichloromethane (2 mL) and trifluoroacetic acid (2 mL) was stirred at room temperature for 3 hours then the reaction was evaporated to dryness. The residue was taken up in dioxane (3 mL) then 2-chloro-N-methyl-5-(tri-fluoromethyl)pyrimidin-4-amine (42 mg, 0.20 mmol) and para-toluene sulfonic acid (38 mg, 0.20 mmol) were added. The resulting mixture was heated to 100° C. for 2 h. After return to room temperature, DCM (10 mL) and water (10 m) were added and the organic phase was passed through a hydrophobic frit. The solvent was removed in vacuo and the residue was dissolved in DCM (3 mL) and then DIPEA (140 μL, 0.8 mmol) and HATU (85 mg, 0.22 mmol) were added, followed by morpholine (18 μL, 0.2 mmol). The mixture was allowed to stir at RT for 4 h and then saturated aqueous sodium bicarbonate solution (25 mL) was added. The mixture was passed through a hydrophobic frit and the solvent was removed in vacuo. The residue was purified by reversed phase HPLC to give (5-chloro-2-fluoro-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)-(morpholino)methanone (25 mg, 28%) as an off-white solid. LCMS (10 cm_ESCI_Bicarb_MeCN): [M+H]+=434 at 3.02 min. 1H NMR (400 MHz, CDCl3): δ 8.64 (d, J=12.8 Hz, 1H), 8.22 (s, 1H), 7.72 (brs, 1H), 7.48 (d, J=6.8 Hz, 1H), 5.30 (brs, 1H), 3.80-3.77 (m, 4H), 3.66-3.68 (m, 2H), 3.41-3.39 (m, 2H), 3.12 (d, J=4.8 Hz, 3H).

reactant | tert-butyl 4-amino-5-chloro-2-fluorobenzoate | 0.20 mmol, 50 mg | NC1=CC(=C(C(=O)OC(C)(C)C)C=C1Cl)F | C11H13ClFNO2
reactant | 2-chloro-N-methyl-5-(tri-fluoromethyl)pyrimidin-4-amine | 0.20 mmol, 42 mg | ClC1=NC=C(C(=N1)NC)C(F)(F)F | C6H5ClF3N3
reactant | para-toluene sulfonic acid | 0.20 mmol, 38 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | DIPEA | 0.8 mmol, 140 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.22 mmol, 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | morpholine | 0.2 mmol, 18 μL | N1CCOCC1 | C4H9NO
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (5-chloro-2-fluoro-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)-(morpholino)methanone | 25 mg, 28% | ClC=1C(=CC(=C(C1)C(=O)N1CCOCC1)F)NC1=NC=C(C(=N1)NC)C(F)(F)F | C17H16ClF4N5O2
